US07994185B2
Step A: 1,1-Dimethylethyl [2-({4-[4-(3-{[(2,5-difluorophenyl)sulfonyl]amino}-2-fluorophenyl)-2-(1,1-dimethylethyl)-1,3-thiazol-5-yl]-2-pyrimidinyl}amino)ethyl]carbamate
Following a procedure analogous to the procedure described in Example 1 using N-{3-[5-(2-chloro-4-pyrimidinyl)-2-(1,1-dimethylethyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-2,5-difluorobenzenesulfonamide (0.30 g, 0.56 mmol), 1,1-dimethylethyl (2-aminoethyl)carbamate (0.089 g, 0.56 mmol) the title compound of Step A was obtained (0.34 g, 88% yield). 1H NMR (400 MHz, DMSO-d6) δ ppm 10.75 (s, 1H), 8.03 (d, J=5.1 Hz, 1H), 7.13-7.67 (m, 7H), 6.85 (br. s., 1H), 5.80-6.02 (m, 1H), 3.16-3.28 (m, 2H), 2.99-3.13 (m, 2H), 1.40 (s, 9H), 1.37 (s, 9H); m/z (ES+): 663 [M+H]+.

reactant | N-{3-[5-(2-chloro-4-pyrimidinyl)-2-(1,1-dimethylethyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-2,5-difluorobenzenesulfonamide | 0.56 mmol, 0.30 g | ClC1=NC=CC(=N1)C1=C(N=C(S1)C(C)(C)C)C=1C(=C(C=CC1)NS(=O)(=O)C1=C(C=CC(=C1)F)F)F | C23H18ClF3N4O2S2
reactant | 1,1-dimethylethyl (2-aminoethyl)carbamate | 0.56 mmol, 0.089 g | NCCNC(OC(C)(C)C)=O | C7H16N2O2
product | 1,1-Dimethylethyl [2-({4-[4-(3-{[(2,5-difluorophenyl)sulfonyl]amino}-2-fluorophenyl)-2-(1,1-dimethylethyl)-1,3-thiazol-5-yl]-2-pyrimidinyl}amino)ethyl]carbamate | 88% yield | FC1=C(C=C(C=C1)F)S(=O)(=O)NC=1C(=C(C=CC1)C=1N=C(SC1C1=NC(=NC=C1)NCCNC(OC(C)(C)C)=O)C(C)(C)C)F | C30H33F3N6O4S2
